US03935207
Morpholine (2 equivalents) is added to a well-stirred ice-cooled solution in dry ether of 3,3-dimethylacryloyl chloride (1 equivalent) and when addition is complete, the mixture is warmed for a few minutes. the mixture is then cooled, filtered, the solvent removed and the residue recrystallized from 60-80 petrol to give 3,3-dimethylacryloyl morpholine m.pt. 52°-4°.

reactant | Morpholine | 2 equivalents | N1CCOCC1 | C4H9NO
reactant | 3,3-dimethylacryloyl chloride | 1 equivalent | CC(=CC(=O)Cl)C | C5H7ClO
solvent | ether | CCOCC | C4H10O
product | 3,3-dimethylacryloyl morpholine | CC(=CC(=O)N1CCOCC1)C | C9H15NO2
